US07598257B2
4-Fluoro-2-[1-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenol
4-Bromo-1H-pyrrolo[2,3-b]pyridine (0.050 g, 0.00025 mol) and 4-fluoro-2-(1H-pyrazol-3-yl)phenol (0.150 g, 0.000842 mol) were heated neat to 160° C. for 5 h. The reaction was allowed to cool to rt and the residue was purified by prep LC-MS on a C-18 column eluting with a water/ACN gradient containing 0.2% TFA to give the title compound, (0.052 g, 20%, as an amorphous white solid, LC/MS (M+H)+ 295, 1H NMR (DMSO-d6) δ 12.01 (bs, 1H), 10.25 (bs, 1H), 8.81 (s, 1H), 8.35 (d, 1H, J=5.5), 7.77 (d, 1H, J=9.5), 7.64 (m, 1H), 7.59 (d, 1H, J=5.5), 7.32 (s, 1H), 7.09 (m, 1H), 7.05 (m, 1H), 7.01 (m, 1H).

reactant | 4-Bromo-1H-pyrrolo[2,3-b]pyridine | 0.00025 mol, 0.050 g | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | 4-fluoro-2-(1H-pyrazol-3-yl)phenol | 0.000842 mol, 0.150 g | FC1=CC(=C(C=C1)O)C1=NNC=C1 | C9H7FN2O
product | 4-Fluoro-2-[1-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenol | FC1=CC(=C(C=C1)O)C1=NN(C=C1)C1=C2C(=NC=C1)NC=C2 | C16H11FN4O
